US03951981
Preparation of 4-Methyl-10-(methylthio)-4H-thieno[3,4-b] [1,5]benzodiazepine
To a stirred suspension of 0.7 g. of 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5] benzodiazepin-10-thione in 10 ml. of dioxane is added dropwise and simultaneously at 30°-40°C., a solution of 0.95 g. of potassium hydroxide in 10 ml. of methanol and 0.8 ml. of methyl sulfate. After addition is complete, the mixture is stirred for 3 hours, diluted with methanol and filtered. The filtrate is concentrated to about 20 ml., diluted with water and extracted with chloroform. The chloroform solution is concentrated to give a solid, which is recrystallized from methanol-water to give orgnae crystals, m.p. 113°-115°C.

reactant | 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5] benzodiazepin-10-thione | CN1C=2C(C(NC3=C1C=CC=C3)=S)=CSC2 | C12H10N2S2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | methyl sulfate | S(=O)(=O)(OC)[O-]
solvent | methanol | CO | CH4O
product | 4-Methyl-10-(methylthio)-4H-thieno[3,4-b] [1,5]benzodiazepine | CN1C=2C(C(=NC3=C1C=CC=C3)SC)=CSC2 | C13H12N2S2
